2109-07-28 10:44:00 Physician Attending Progress Note
Chief Complaint: ETOH wdrawl
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Valium q2 overnight but less this AM
   Foley placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2109-7-28**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-7-28**] 10:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.1
C (98.8
   HR: 80 (73 - 102) bpm
   BP: 136/89(100) {118/84(96) - 165/120(128)} mmHg
   RR: 13 (13 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106.8 kg (admission): 105.1 kg
             Total In:
                                                                  4,857 mL
                                                                    890 mL
   PO:
                                                                  2,130 mL
                                                                    840 mL
   TF:
   IVF:
                                                                  2,727 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  4,560 mL
                                                                  2,885 mL
   Urine:
                                                                  4,560 mL
                                                                  2,885 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    297 mL
                                                                 -1,995 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   Alert, NAD, talking about future plans, inpt versus [**Hospital 265**] rehab
   RR
   CTA
   Soft NT
   No edema
   Labs / Radiology
   10.5 g/dL
   147 K/uL
   90 mg/dL
   1.1 mg/dL
   28 mEq/L
   4.0 mEq/L
   13 mg/dL
   104 mEq/L
   142 mEq/L
   32.2 %
   4.4 K/uL
        [image002.jpg]
                             [**2109-7-27**]  04:09 AM
                             [**2109-7-28**]  01:03 AM
   WBC
   4.9
   4.4
   Hct
   32.6
   32.2
   Plt
   166
   147
   Cr
   1.1
   1.1
   Glucose
   99
   90
   Other labs: Lactic Acid:1.4 mmol/L, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   1.       ETOH withdrawl: lucid and conversant, povernight seemed to be
   agitated about freq urination and not able to get to commode and was
   getting Valium but this AM more calm post foley and very appropriate.
   Transition to valium 10  q4h PO per CIWA.
   2.       Will consult addiction services for rehab planning
   Remainder of plan as outlined above.
   Call out if OK CIWA interval for floor
   ICU Care
   Nutrition: po diet folate and thiamine
   Glycemic Control:
   Lines:
   20 Gauge - [**2109-7-28**] 05:08 AM
   Prophylaxis:
   DVT: sc ppi
   Stress ulcer:
   Communication:  with pt
   [**Name (NI) 36**] status: Full code
   Disposition :Transfer to floor when can get CIWA q4
   Total time spent: 35 minutes